* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\LT1617.asc
* Generated by LTspice 24.1.9 for Windows.
C2 0 OUT 4.7µ Rser=0.02
D1 N002 0 MBR0530L
R1 N003 0 24.9K
R2 OUT N003 150K
V1 IN 0 3.3
C3 N001 N002 1µ
L1 OUT N002 22µ Rser=0.6
L2 IN N001 22µ Rser=0.6
X§U1 N001 0 N003 IN IN LT1617
Rload OUT 0 500
.model D D
.lib C:\Users\adity\AppData\Local\LTspice\lib\cmp\standard.dio
.tran 1m startup
K1 L1 L2 1
.lib LT1617.sub
.backanno
.end
